US05475106
Using a procedure similar to that described in Example 1, but starting with tert-butyl 2-[2-amino-N-(2-biphenylyl)acetamido]acetate (5.8 g) and 3-methylphenyl isocyanate (2.3 g), and after recrystallisation in ethyl acetate, tert-butyl 2-{N-(2-biphenylyl)-2-[3-(3-methylphenyl)ureido]acetamido}acetate (3.7 g), m.p. 177° C., is obtained.

reactant | tert-butyl 2-[2-amino-N-(2-biphenylyl)acetamido]acetate | 5.8 g | NCC(=O)N(C1=C(C=CC=C1)C1=CC=CC=C1)CC(=O)OC(C)(C)C | C20H24N2O3
reactant | 3-methylphenyl isocyanate | 2.3 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | tert-butyl 2-{N-(2-biphenylyl)-2-[3-(3-methylphenyl)ureido]acetamido}acetate | 3.7 g | C1(=C(C=CC=C1)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)CC(=O)OC(C)(C)C)C1=CC=CC=C1 | C28H31N3O4
